US07449486B2
Step D: Preparation of (S)-1-((S)-2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-hydroxypropan-1-one:
To a solution of (S)-1-((S)-2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-(t -butyldiphenylsilyloxy)propan-1-one (121 mg, 0.18 mmol) in THF (5 mL) at 0° C. was added TBAF (0.31 mL, 1M, 0.31 mmol). After stirring at 0° C. for 1 hour and at room temperature for 1 hour, the mixture was treated with saturated NaHCO3 (20 mL) and extracted with ethyl acetate (3×20 mL). The combined organics were washed with brine (20 mL), dried over Na2SO4, filtered, and concentrated. The brown oil was chromatographed (4:1 hexanes/ethyl acetate) to provide the product (41 mg, 53%) as a pale yellow oil.

reactant | (S)-1-((S)-2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-(t -butyldiphenylsilyloxy)propan-1-one | 0.18 mmol, 121 mg | N(=[N+]=[N-])CCC[C@]1(SC(=NN1C([C@H](C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C36H37F2N5O2SSi
reactant | TBAF | 0.31 mmol, 1M, 0.31 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-1-((S)-2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-2-hydroxypropan-1-one | 41 mg, 53% | N(=[N+]=[N-])CCC[C@]1(SC(=NN1C([C@H](C)O)=O)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C20H19F2N5O2S
